US08686022B2
1-methyl-7-[4-(1-methyl-piperidine-3-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid (5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide
61 mg 1-methyl-piperidine-3-carboxylic acid are dissolved in 1 ml of tetrahydrofuran, combined with 69 mg carbonyldiimidazole and stirred for 20 minutes at 50° C. The mixture is left to cool to ambient temperature, 150 mg 1-methyl-7-piperazin-1-ylmethyl-1H-indole-2-carboxylic acid (5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide are added and then the mixture is stirred for 12 hours at ambient temperature. Then a further 122 mg of 1-methyl-piperidine-3-carboxylic acid in 2 ml of tetrahydrofuran are combined with 138 mg carbonyldiimidazole, the mixture is stirred for 20 minutes at 50° C. and this solution is added to the reaction mixture. It is stirred for 2 hours at 50° C., then divided between water and ethyl acetate, the organic phase is washed with saturated aqueous sodium chloride solution, dried with magnesium sulphate and the solvents are eliminated in vacuo. The residue is chromatographed on silica gel with dichloromethane/(methanol/ammonia 9:1) 99:1 to 90:10. The product thus obtained is purified by preparative HPLC (HPLC method 3).

reactant | 1-methyl-piperidine-3-carboxylic acid | 61 mg | CN1CC(CCC1)C(=O)O | C7H13NO2
reactant | carbonyldiimidazole | 69 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-methyl-7-piperazin-1-ylmethyl-1H-indole-2-carboxylic acid (5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | 150 mg | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCNCC1)C)OC)NS(=O)(=O)C | C27H37N5O4S
reactant | 1-methyl-piperidine-3-carboxylic acid | 122 mg | CN1CC(CCC1)C(=O)O | C7H13NO2
reactant | carbonyldiimidazole | 138 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methyl-7-[4-(1-methyl-piperidine-3-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid (5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)C1CN(CCC1)C)C)OC)NS(=O)(=O)C | C34H48N6O5S
